US07847100B2
To a solution of N,N-dimethylsulfamoyl)imidazole (Preparation described in Winter, J., Retey, J. Synthesis. 1994, 3, 245-246; 47 mg, 0.27 mmol) in 1 mL THF, cooled to −78° C. was added n-butyllithium (2.5 M solution in hexanes, 0.12 mL, 0.29 mmol) dropwise. The reaction was stirred at −78° C. for 15 min and zinc chloride (0.5 M solution in THF, 1.6 mL, 0.81 mmol) was added. After warming to rt over 1 h, 3-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-bromo-N-methyl-N-(methylsulfonyl)benzenamine (100 mg, 0.18 mmol) and tetrakis(triphenylphosphine)palladium(0) (20.8 mg, 0.018 mmol) were added. The mixture was heated in a microwave oven to 80° C. for 0.75 h, quenched with water and extracted with EtOAc. The combined organic layers were washed with brine. Drying, solvent evaporation and flash chromatography (50-100% EtOAc/hexanes) gave 3-(1-(dimethylsulfamoyl)-1H-imidazol-2-yl)-5-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-N-methyl-N-(methylsulfonyl)benzenamine. 1H NMR (CDCl3) δ 8.26 (m, 1H), 8.15 (m, 1H), 7.87 (m, 1H), 7.49 (d, J=1.6 Hz, 1H), 7.26 (m, 3H), 7.18 (d, J=1.6 Hz, 1H), 7.08 (m, 2H), 3.60 (d, J=12 Hz, 1H), 3.40 (m, 4H), 2.95 (s, 3H), 2.64 (s, 6H), 1.71 (s, 3H), 1.42 (bs, 9H).

reactant | imidazole | 0.27 mmol, 47 mg | N1C=NC=C1 | C3H4N2
reactant | n-butyllithium | 0.29 mmol, 2.5 M, 0.12 mL | C(CCC)[Li]
reactant | 3-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-bromo-N-methyl-N-(methylsulfonyl)benzenamine | 0.18 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@@](CC1=CC=CC=C1)(C)C1=NN=C(O1)C=1C=C(C=C(C1)Br)N(S(=O)(=O)C)C | C24H29BrN4O5S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.81 mmol, 0.5 M, 1.6 mL | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.018 mmol, 20.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-(dimethylsulfamoyl)-1H-imidazol-2-yl)-5-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-N-methyl-N-(methylsulfonyl)benzenamine | CN(S(=O)(=O)N1C(=NC=C1)C=1C=C(C=C(C1)C=1OC(=NN1)[C@](CC1=CC=CC=C1)(C)NC(=O)OC(C)(C)C)N(S(=O)(=O)C)C)C | C29H37N7O7S2
